US05455253
4-(3-Chlorophenyl)-2,7,7-trimethyl-4,6,7,8-tetrahydro-5(1H)quinolone.
A mixture of 4-(3-chlorophenyl)but-3-en-2-one (5.0 g), 5,5-dimethyl-1,3-cyclohexanedione (3.88 g), ammonium acetate (3.20 g) and ethanol (90 mL) was heated at reflux for ten hours. The reaction mixture was worked up as described in Example 8 and recrystallization from ethyl acetate-hexane yielded the title compound (4.7 g) as a light yellow solid, mp 183°-185° C.; NMR: 0.94(s,3, CH3), 1.00 (s,3, CH3), 1.74 (s,3, CH3), 1.95 (d,1, J=16, CH), 2.11 (d,1, J=16, CH), 2.25 (d,1, J=16.7, CH), 2.35 (d,1, J=16.7, CH), 4.38 (d,1, J=4.6, CH), 4.59 (d,1, J=4.6, CH), 7.09-7.28 (m,4, Ar), 8.44 (s,1, NH); (CI, CH4) MS: m/z=302 (M+1). Analysis for C18H20ClNO: Calculated C, 71.63; H, 6.68; N, 4.64; Found: C, 71.60; H, 6.69; N, 4.54.

reactant | 4-(3-chlorophenyl)but-3-en-2-one | 5.0 g | ClC=1C=C(C=CC1)C=CC(C)=O | C10H9ClO
reactant | 5,5-dimethyl-1,3-cyclohexanedione | 3.88 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | ammonium acetate | 3.20 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 4-(3-Chlorophenyl)-2,7,7-trimethyl-4,6,7,8-tetrahydro-5(1H)quinolone | 4.7 g | ClC=1C=C(C=CC1)C1C=C(NC=2CC(CC(C12)=O)(C)C)C | C18H20ClNO
